US05596002
(7-Chloro-quinolin-4-yl)-(1,1-dimethyl-2-piperidin-1-yl-ethyl)-amine
4.57 g of 4,7-dichloroquinoline, 7.5 g of 2-methyl-2-(piperidin-1-yl)-propylamine and 0.75 g of phenol were reacted at 180° C. for 16 hours. The crude reaction product, isolated as in the preceeding Example, was purified on 200 g of aluminium oxide (activity grade II) prior to recrystallization; a 1:1 mixture of toluene and acetone was used as the eluent. After a fore-run, which contained unreacted 4,7-dichloroquinoline, the product was eluted and, after recrystallization from 5 ml of acetonitrile, yielded 0.8 g of colourless crystals, m.p.: 143°-147° C.

reactant | 4,7-dichloroquinoline | 4.57 g | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 2-methyl-2-(piperidin-1-yl)-propylamine | 7.5 g | CC(CN)(C)N1CCCCC1 | C9H20N2
reactant | phenol | 0.75 g | C1(=CC=CC=C1)O | C6H6O
product | (7-Chloro-quinolin-4-yl)-(1,1-dimethyl-2-piperidin-1-yl-ethyl)-amine | 0.8 g | ClC1=CC=C2C(=CC=NC2=C1)NC(CN1CCCCC1)(C)C | C18H24ClN3
